Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
Exertional chest pain 
 
Major Surgical or Invasive Procedure:
Cardiac Catheterization ___
Urgent Coronary artery bypass grafts x3 (Left internal mammary 
artery > left anterior descending, Saphenous vein graft > obtuse 
marginal 2, Saphenous vein graft > right coronary artery 
Endovascular saphenous vein harvest right lower extremity ___

 
History of Present Illness:
___ year old man with pmh of HTN, dyslipidemia and remote 
smoking, with exertional chest pain x 2 months. Worsening chest 
pain this weekend. Was seen by his PCP ___. Referred for 
cardiac work-up. He had positive stress
echo today and then taken for cardiac cath wich showed three 
vessel disease and very tight proximal LAD stenosis.  Cardiac 
surgery evaluation is requested. 

 
Past Medical History:
Hypertension
hyperlipidemia
history of colonic adenoma.
 
Social History:
___
Family History:
Younger brother has had a heart valve
replacement.  There is no premature coronary disease in the
family or sudden cardiac death.
 
Physical Exam:
On Admission:
Vital signs: Blood pressure 166/80, heart rate 78, weight 185
pounds, oxygen saturation 97% room air.
General: pleasant male sitting on exam table, no distress
HEENT: anicteric sclerae, clear oropharynx
Neck: normal jugular venous pressure, carotids 3+ with normal
upstroke and without bruits
Cardiac: regular rate and rhythm, normal S1 and split S2, no
murmurs, rubs or gallops
Pulm: clear lungs bilaterally
Abdomen: soft, non-tender, no masses or bruits
Extremities: warm and well perfused, no clubbing or edema, 3+
pulses throughout
Neuro: CNs ___ intact
Psych: mood is good and affect appropriate

Discharge Examination 
24 HR Data (last updated ___ 1244)
    Temp: 97.9 (Tm 98.8), BP: 117/69 (112-127/67-81), HR: 74 
(74-104), RR: 16 (___), O2 sat: 98% (94-98), O2 delivery: Ra, 
Wt: 181.44 lb/82.3 kg
Fluid Balance (last updated ___ @ 759)
  Last 8 hours  Total cumulative -170ml
    IN: Total 180ml, PO Amt 180ml
    OUT:  Total 350ml, Urine Amt 350ml
  Last 24 hours  Total cumulative 130ml
    IN: Total 480ml, PO Amt 480ml
    OUT:  Total 350ml, Urine Amt 350ml

General: NAD 
Neurological: A/O x3 Moves all extremities Follows commands
HEENT:  PEERLA
Cardiovascular: RRR  no murmur or rub 
Respiratory: CTA  No resp distress  
GI/Abdomen: Bowel sounds + Soft ND NT
Extremities: 
Right Upper extremity   Warm  Edema none  
Left Upper extremity    Warm  Edema none   
Right Lower extremity   Warm  Edema trace 
Left Lower extremity    Warm  Edema trace  
Pulses:
DP             Right: P      Left: P
___             Right: P      Left: P
Radial         Right: P      Left: P

Sternal: CDI Sternum stable No erythema or drainage 
Lower extremity: Right EVH no erythema or drainage 

 
Pertinent Results:
___
Echocardiogram 
Left Ventricle - Stroke Volume:   53 ml/beat       
Aorta - Annulus:   2.2 cm   <= 3.0 cm   
Aorta - Sinus Level:   3.5 cm   <= 3.6 cm   
Aorta - Sinotubular Ridge:   2.8 cm   <= 3.0 cm   
Aorta - Ascending:   3.4 cm   <= 3.4 cm   
Aortic Valve - LVOT VTI:   14       
Aortic Valve - LVOT diam:   2.2 cm       
  
Findings   
LEFT ATRIUM: No mass/thrombus in the ___. 
RIGHT ATRIUM/INTERATRIAL SEPTUM: No ASD by 2D or color Doppler. 
LEFT VENTRICLE: Normal LV wall thickness. Overall normal LVEF 
(>55%). 
RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 
AORTA: Normal ascending aorta diameter. Simple atheroma in 
descending aorta. No thoracic aortic dissection. 
AORTIC VALVE: Normal aortic valve leaflets (3). No AS. No AR. 
MITRAL VALVE: Normal mitral valve leaflets with trivial MR. 
___ VALVE: Normal tricuspid valve leaflets. Mild [1+] TR. 
PERICARDIUM: No pericardial effusion. 
 
Conclusions   
Pre-bypass 
 No mass/thrombus is seen in the left atrium or left atrial 
appendage. No atrial septal defect is seen by 2D or color 
Doppler. Left ventricular wall thicknesses are normal. Overall 
left ventricular systolic function is normal (LVEF>55%). Right 
ventricular chamber size and free wall motion are normal. There 
are simple atheroma in the descending thoracic aorta. No 
thoracic aortic dissection is seen. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion. 
There is no aortic valve stenosis. No aortic regurgitation is 
seen. The mitral valve appears structurally normal with trivial 
mitral regurgitation. The tricuspid valve appears normal. There 
is mild tricuspid regurgitation. There is no pericardial 
effusion. 

 Post-bypass
 The patient is on a phenylephrine infusion and is A paced.
 Biventricular function is normal with no regional wall motion 
abnormalities.
 No aortic dissection.
 Remainder of exam is unchanged.   

CXR ___
Compared to chest radiographs ___: 
Previous left lower lobe collapse has improved.  Small bilateral 
pleural 
effusions are stable.  Minimal left pneumothorax unchanged.  
Normal 
postoperative cardiomediastinal silhouette. 

Preoperative workup 
___ Imaging CHEST (PRE-OP PA & LAT) 
IMPRESSION:   
No comparison.  The lung volumes are normal.  Normal size of the 
cardiac 
silhouette.  Normal hilar and mediastinal contours.  No 
pneumonia, no 
pulmonary edema, no pleural effusions.  No pathological 
calcifications.  Mild scoliosis of the thoracic spine. 

___ Cardiovascular ___ MD ___ 
___: Chest pain (R07.9), CAD with unstable angina 
(I25.110)
Access: Right Radial Artery 
Coronary Description
The coronary circulation is right dominant.
LM: The Left Main, arising from the left cusp, is a large 
caliber vessel. This vessel bifurcates into the Left Anterior 
Descending and Left Circumflex systems.
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a large caliber vessel. There is a 99% stenosis in the 
proximal segment. There is a 30% stenosis in the mid segment.
The Septal Perforator, arising from the proximal segment, is a 
small caliber vessel.
The ___ Diagonal, arising from the proximal segment, is a small 
caliber vessel.
The ___ Diagonal, arising from the mid segment, is a small 
caliber vessel. There is a 50% stenosis in the ostium.
Cx: The Circumflex artery, which arises from the LM, is a large 
caliber vessel. There is an 80% stenosis in the mid segment.
The ___ Obtuse Marginal, arising from the mid segment, is a 
medium caliber vessel.
The ___ Obtuse Marginal, arising from the mid segment, is a 
medium caliber vessel.
RCA: The Right Coronary Artery, arising from the right cusp, is 
a large caliber vessel. There is a 99% stenosis in the proximal 
segment.
The SinoAtrial, arising from the proximal segment, is a small 
caliber vessel.
The Right Posterior Descending Artery, arising from the distal 
segment, is a medium caliber vessel.
The Right Posterolateral Artery, arising from the distal 
segment, is a medium caliber vessel.
Complications: There were no clinically significant 
complications.
Findings
• Three vessel coronary artery disease.
Recommendations
• CABG evaluation.

___ Cardiovascular Stress Echo Report 
CONCLUSION:
Indication: This ___ year-old male with hypertension and 
hyperlipidemia was referred for a stress test for evaluation of 
his exertional chest pain and nonspecific ST segment changes.
Medications: valsartan 80 mg ___, hydrochlorothiazide 12.5 mg ___, 
simvastatin 20 mg ___ 165 mg ___
Type of stress/symptoms: The patient had no symptoms at 
rest/prior to stress. The patient exercised on a modified ___ 
treadmill (3 min stages) protocol for 7 min 0 sec ___ METS) 
representing a fair exercise
capacity for age and gender. The test was stopped due to rapidly 
progressive anterior chest discomfort (peak exercise ___ and 
ischemic ST changes. In response to stress, the patient had 
anginal type pain beginning at 4.8 min of exercise (heart rate 
120bpm; systolic blood pressure 194mmHg)that resolved at 4.0 min 
(heart rate 82bpm; systolic blood pressure (170mmHg) of 
recovery.
Hemodynamics: There was resting systolic hypertension. At rest, 
the blood pressure was 170/88 mmHg and the heart rate was 73 
bpm. In response to stress, the heart rate increased to 130 bpm 
(88 % APMHR) with a
peak systolic blood pressure of 194 mmHg (peak rate-pressure 
product = ___.
ECG: The resting ECG showed sinus rhythm with diffuse 
nonspecific ST segment changes. At peak exercise, the stress ECG 
showed showed 1.5-2 mm horizontal ST segment depression 
inferolaterally and ___levation in aVR and V1. A downsloping ST segment morphology was 
noted in recovery and persisted until 12 minutes post-exercise. 
During stress there were rare atrial premature beats and 
occasional ventricular premature beats with one ventricular 
couplet.
Rest Echo: Resting echo images demonstrated mild symmetric left 
ventricular hypertrophy with a normal cavity size. There is 
normal regional left ventricular systolic function and normal 
global systolic function. The visually estimated resting left 
ventricular ejection fraction is 60-65%. Tissue Doppler suggests 
an inceased left
ventricular filling pressure (PCWP greater than 18mmHg). The 
right ventricular cavity size is normal with normal free wall 
motion. There is no pericardial effusion. Doppler demonstrates 
no aortic valve stenosis, trace aortic regurgitation, trivial 
mitral regurgitation and no resting left ventricular outflow 
tract gradient. The resting pulmonary artery systolic pressure 
could not be estimated.
Stress Echo: Echo images were acquired within 64 sec post stress 
at heart rates of 117 to 104 bpm. These demonstrated new 
regional left ventricular systolic dysfunction with extensive 
severe hypokinesis of the mid
to distal anterior wall, septum, and apical ___ of the LV c/w 
LAD territory ischemia The remaining left ventricular segments 
augment appropriately. The E/e' was 18 at seconds after exercise 
and represents and an increase compared to resting baseline. 
This suggests an increase in left ventricular filling pressure 
with exercise and c/w exercise-induced diastolic dysfunction. 
There was appropriate augmentation of right
ventricular free wall motion.
FINDINGS:
LEFT VENTRICLE (LV): Mild symmetric LVH. Normal LV cavity size. 
Normal resting regional function. Normal
LVEF (>55%) No resting LVOT gradient.
RIGHT VENTRICLE (RV): Normal cavity size. Resting RV function 
normal.
AORTIC VALVE (AV): No stenosis. Trace aortic regurgitation.
MITRAL VALVE (MV): Trivial mitral regurgitation.
TRICUSPID VALVE (TV): Physiologic tricuspid regurgitation. 
Resting pulmonary artery systolic pressure undetermined.
PERICARDIUM: No pericardial effusion.

Labs: 

___ 04:26AM BLOOD WBC-9.9 RBC-3.24* Hgb-9.7* Hct-28.1* 
MCV-87 MCH-29.9 MCHC-34.5 RDW-14.0 RDWSD-44.6 Plt ___
___ 10:00AM BLOOD WBC-9.0 RBC-5.08 Hgb-15.8 Hct-42.9 MCV-84 
MCH-31.1 MCHC-36.8 RDW-13.7 RDWSD-42.1 Plt ___
___ 05:00PM BLOOD ___ PTT-71.4* ___
___ 04:26AM BLOOD Glucose-103* UreaN-29* Creat-1.0 Na-141 
K-3.9 Cl-103 HCO3-25 AnGap-13
___ 10:00AM BLOOD UreaN-26* Creat-1.1 Na-145 K-4.2 Cl-103 
HCO3-29 AnGap-13
___ 05:14AM BLOOD ALT-12 AST-17 LD(LDH)-171 AlkPhos-59 
TotBili-1.4
___ 04:26AM BLOOD Phos-2.4* Mg-2.0
___ 05:14AM BLOOD Mg-2.2 Cholest-138
 
Brief Hospital Course:
Presented for stress echocardiogram which was noted to be 
positive and was referred to cardiac catheterization.  Cardiac 
catheterization revealed significant coronary artery disease and 
cardiac surgery was consulted.  He was admitted and preoperative 
workup.  On ___ he was taken to the operating room and underwent 
coronary artery bypass graft, see operative report for further 
details.  He was taken to the intensive care unit for post 
operative management.  Later that evening he was weaned from 
sedation, awoke neurologically intact and was extubated without 
complications.  POD 1 his CT were removed after being placed on 
water seal and he remained in the intensive care unit on 
neosynephrine that was weaned off by the evening of post 
operative day one.  POD 2 he was started on betablocker and 
diuretic. He was seen by physical therapy for strength and 
mobility with recommendation for home. Additionally foley was 
removed he was able to void but was noted for high post void 
residual was started on Flomax and required straight 
catheterization once.  POD 3 his epicardial wires were removed, 
he was voiding and increasing in ambulation 
POD 4 he was clinically stable and discharged home with services 


 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Valsartan 80 mg PO DAILY 
2. Metoprolol Succinate XL 50 mg PO DAILY 
3. Simvastatin 20 mg PO QPM 
4. Hydrochlorothiazide 12.5 mg PO DAILY 
5. Aspirin 162 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Mylanta 30 cc oral DAILY:PRN 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*1 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
4.  Furosemide 20 mg PO DAILY 
RX *furosemide [Lasix] 20 mg 1 tablet(s) by mouth once a day 
Disp #*5 Tablet Refills:*0 
5.  Magnesium Oxide 400 mg PO DAILY 
RX *magnesium oxide 400 mg 1 capsule(s) by mouth once a day Disp 
#*5 Capsule Refills:*0 
6.  Metoprolol Tartrate 75 mg PO Q8H 
RX *metoprolol tartrate 50 mg 1.5 tablet(s) by mouth every eight 
(8) hours Disp #*135 Tablet Refills:*1 
7.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q6H:PRN Pain: 
moderate/severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth every six (6) hours 
Disp #*10 Tablet Refills:*0 
8.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line  
9.  Ranitidine 150 mg PO DAILY 
RX *ranitidine HCl 150 mg 1 capsule(s) by mouth once a day Disp 
#*30 Capsule Refills:*0 
10.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth once a day Disp #*30 
Capsule Refills:*0 
11.  Aspirin EC 81 mg PO DAILY  
12.  Multivitamins 1 TAB PO DAILY  
13.  Mylanta 30 cc oral DAILY:PRN heartburn  
do not take within 2 hours of zantac   

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary artery disease s/p Coronary revascularization 
Anemia acute blood loss 
Thrombocytopenia secondary to blood loss and pump

Secondary diagnosis 
Hypertension
Hyperlipidemia

 
Discharge Condition:
Alert and oriented x3, non-focal
Ambulating, gait steady
Sternal pain managed with acetaminophen and oxycodone 
Sternal Incision - healing well, no erythema or drainage
Right Leg EVH - healing well, no erythema or drainage
Edema trace

 
Discharge Instructions:
Please shower daily -wash incisions gently with mild soap, no 
baths or swimming, look at your incisions daily
 
Please - NO lotion, cream, powder or ointment to incisions
 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
 
No driving for approximately one month and while taking 
narcotics

Clearance to drive will be discussed at follow up appointment 
with surgeon

No lifting more than 10 pounds for 10 weeks

Encourage full shoulder range of motion, unless otherwise 
specified
 
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___